US04310590
2-Benzyl-5-(N,N-dimethylthiocarbamoyl)thio-4-isothiazolin-3-one
To a solution of 6.76 g. (0.03 mole) of 2-benzyl-5-chloro-4-isothiazolin-3-one in 25 ml of ethanol was added a solution of 5.37 g. (0.03 mole) of N,N-dimethyldithiocarbamic acid sodium salt dihydrate in 30 ml of ethanol followed by 0.1 g. of sodium iodide. A yellow solid separated spontaneously. The mixture was stirred at room temperature for 3 hours, then cooled and filtered. The solid was triturated with 50 ml of water and recrystallized from 250 ml of boiling EtOH to give 5.6 g. (60% yield) of the named product, mp 184°-186°.

reactant | 2-benzyl-5-chloro-4-isothiazolin-3-one | 0.03 mole | C(C1=CC=CC=C1)N1SC(=CC1=O)Cl | C10H8ClNOS
reactant | N,N-dimethyldithiocarbamic acid sodium salt dihydrate | 0.03 mole | O.O.[Na+].CN(C([S-])=S)C
reactant | sodium iodide | [I-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-Benzyl-5-(N,N-dimethylthiocarbamoyl)thio-4-isothiazolin-3-one | 60% yield | C(C1=CC=CC=C1)N1SC(=CC1=O)SC(N(C)C)=S | C13H14N2OS3
